US06740656B2
Step 1C 8-(2-Fluorophenyl)-3-phenyl-2,3-dihydrooxazolo[3,2-c]pyrimidine-5,7-(6H)-dione.
To 2-(2-fluorobenzyl)-4-phenyloxazoline (0.250 g, 0.980 mmol) and N,N-dimethylaniline (0.134 g, 1.09 mmol) in dichloromethane (1.5 mL) at 0° C. was added dropwise chlorocarbonyl isocyanate (0.103 g, 0.980 mmol). The mixture was allowed to warm to room temperature and was stirred for 24 h. The solution was concentrated, dissolved in ethyl acetate (1 mL) and filtered through a short pad of silica gel, eluating with ethyl acetate (150 mL). Concentration gave green-yellow crystals (0.300 g) which were used immediately in the next step due. MS=325.1 ((M+H)+).

reactant | 2-(2-fluorobenzyl)-4-phenyloxazoline | 0.980 mmol, 0.250 g | FC1=C(CC=2OCC(N2)C2=CC=CC=C2)C=CC=C1 | C16H14FNO
reactant | N,N-dimethylaniline | 1.09 mmol, 0.134 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | chlorocarbonyl isocyanate | 0.980 mmol, 0.103 g | ClC(=O)N=C=O | C2ClNO2
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 8-(2-Fluorophenyl)-3-phenyl-2,3-dihydrooxazolo[3,2-c]pyrimidine-5,7-(6H)-dione | 0.300 g | FC1=C(C=CC=C1)C1=C2N(C(NC1=O)=O)C(CO2)C2=CC=CC=C2 | C18H13FN2O3
